US07655745B2
A 3 L-volume four-necked flask equipped with a Dimroth condenser, a dropping funnel and a stirrer was charged with magnesium (15.7 g, 0.645 moles, in a flaky state), and the inside of the flask was purged with nitrogen. Diethyl ether (200 mL) was poured while keeping the inside of the flask at a positive pressure, and one piece of iodine was added while stirring. Furthermore, 1-bromo-4-hexylbenzene (160.9 g, 0.665 moles) and diethyl ether (500 mL) were charged into the dropping funnel while keeping the inside of the flask at a positive pressure. When the flask was heated, and refluxing started, the diethyl ether solution of 1-bromo-4-hexylbenzene was dropped from the dropping funnel under mild refluxing over about 4.5 hours, and the mixture was stirred for one hour as it was. After finishing stirring under heating, the reaction solution was cooled to room temperature and diluted with toluene. Tetrachlorosilane (44.6 g, 0.263 moles) and toluene (200 mL) were charged into the dropping funnel while keeping the inside of the flask at a positive pressure and dropped at room temperature over about 30 minutes. After completion of the dropping, stirring of the reaction solution was continued at room temperature overnight. A formed crystal of magnesium bromide was filtered, and the obtained filtrate was concentrated. The concentrated liquid was distilled in vacuo to obtain bis(4-hexylphenyl)dichlorosilane as a major distillate. This compound was confirmed to be the desired silane compound (aromatic monomer (B2) from chemical shift, branching and integration values of signals obtained by the 1HNMR measurement. In the following polymerization reaction, a purified material obtained by vacuum distillation of this major distillate just before that was provided. Also, all of the solvents to be used were dried by a molecular sieve and then used.

reactant | magnesium | [Mg] | Mg
reactant | 1-bromo-4-hexylbenzene | 0.665 moles, 160.9 g | BrC1=CC=C(C=C1)CCCCCC | C12H17Br
reactant | diethyl ether | 500 mL | C(C)OCC | C4H10O
reactant | Tetrachlorosilane | 0.263 moles, 44.6 g | Cl[Si](Cl)(Cl)Cl | Cl4Si
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | bis(4-hexylphenyl)dichlorosilane | C(CCCCC)C1=CC=C(C=C1)[Si](Cl)(Cl)C1=CC=C(C=C1)CCCCCC | C24H34Cl2Si
